US08461158B2
To a suspension of N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-[1-(methylsulfonyl)-3-piperidinyl]-1,3-propanediamine from the previous step in MeOH (20 mL) was added a slight excess of 1.25 M HCl in MeOH (0.18 mL) to give a clear solution. The solvent was removed under vacuum and the residue was washed with EtOAc to give N1-[4-[2-(Difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-[1-(methylsulfonyl)-3-piperidinyl]-1,3-propanediamine hydrochloride: mp (MeOH/EtOAc/hexanes) 189° C. (dec.); 1H NMR (DMSO-d6) (rotamers) δ 10.11 and 9.98 (2br, 1H), 7.89 (d, J=8.4 Hz, 1H), 7.71 and 7.65 (2t, JHF=52.8, 52.9 Hz, 1H), 7.45 and 7.38 (2t, J=8.2, 1H), 6.97 and 6.95 (2d, J=5.7, 5.8 Hz, 1H), 4.73-4.65 and 4.51-4.44 (2m, 1H), 3.97 and 3.96 (2s, 3H), 3.91-3.57 (m, 12H), 3.11-3.03 (m, 2H), 2.93 and 2.92 (2s, 6H), 2.95-2.82 (m, 1H), 2.76-2.66 (m, 6H), 2.05-1.85 (m, 4H); Anal. Calcd. for C27H38N9O4.1.25HCl.0.5H2O: C, 47.8; H, 6.1; Cl, 6.5; N, 18.6. Found: C, 47.6; H, 6.1; Cl, 6.6%; N, 17.8%.

reactant | N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-[1-(methylsulfonyl)-3-piperidinyl]-1,3-propanediamine | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(CCCN(C)C)C1CN(CCC1)S(=O)(=O)C)C=CC=C2OC)F | C27H39F2N9O4S
reactant | HCl | 1.25 M | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 0.18 mL | CO | CH4O
product | N1-[4-[2-(Difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-[1-(methylsulfonyl)-3-piperidinyl]-1,3-propanediamine hydrochloride | Cl.FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(CCCN(C)C)C1CN(CCC1)S(=O)(=O)C)C=CC=C2OC)F | InChI=1S/C27H39F2N9O4S.ClH/c1-34(2)11-7-13-37(19-8-6-12-36(18-19)43(4,39)40)26-31-25(35-14-16-42-17-15-35)32-27(33-26)38-20-9-5-10-21(41-3)22(20)30-24(38)23(28)29;/h5,9-10,19,23H,6-8,11-18H2,1-4H3;1H
